US08080580B2
Preparation of Intermediate ((2R,3R,4S,5R)-6-allyloxy-3,4,5-tris-benzyloxy-tetrahydro-pyran-2-yl)-methanol (I-1a)
A suspension of D-glucose (1.2 kg, 6.6 mol), trifluoromethane sulfonic acid (12 mL) and allyl alcohol (5 L) was heated at 80° C. for 3 days. The mixture was cooled down to room temperature, the volatiles were removed in vacuo and the residue dissolved in N,N-dimethylformamide (8 L). This was split into four equal reactions and to each was added trityl chloride (463 g, 1.67 mol) and triethylamine (231 mL, 1.67 mol). A slight exotherm was observed while adding the triethylamine. The reaction mixture was stirred for 2 days at 30° C. and then each reaction split in half, giving eight equal reactions. To each of these reactions was added benzyl chloride (300 mL, 2.60 mol), followed by portionwise addition of sodium hydride (102.5 g, 2.60 mol) maintaining the reaction temperature between 40 to 50° C. After complete addition, the reaction mixtures were stirred at room temperature for 20 hours. Each reaction was then poured onto ice/water (2 L) and extracted with ethyl acetate (2.5 L). The organic phases of each were washed with saturated brine/water (1:1, 2×2 L), combined and dried over magnesium sulfate (product Rf 0.85 in 3:1 hexanes/ethyl acetate). After filtration and evaporation the residue was dissolved in a mixture of dichloromethane (16 L) and methanol (4 L). The mixture was split into 5 equal portions and to each was added sulfuric acid (32 mL). The reactions were stirred for 3 hours, washed with brine/2M aqueous sodium hydroxide solution (1:1, 2×2 L), combined and dried over magnesium sulfate. After filtration and concentration in vacuo, the residue was further purified on silica gel eluting with 30% ethyl acetate in toluene to give intermediate compound (I-1a) as a mixture of anomers (1.77 kg, 54% yield from D-glucose). Rf 0.15 in 3:1 hexanes/ethyl acetate.

reactant | D-glucose | 6.6 mol, 1.2 kg | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | trifluoromethane sulfonic acid | 12 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | allyl alcohol | 5 L | C(C=C)O | C3H6O
reactant | trityl chloride | 1.67 mol, 463 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | benzyl chloride | 2.60 mol, 300 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium hydride | 2.60 mol, 102.5 g | [H-].[Na+]
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 1.67 mol, 231 mL | C(C)N(CC)CC | C6H15N
product | ((2R,3R,4S,5R)-6-allyloxy-3,4,5-tris-benzyloxy-tetrahydro-pyran-2-yl)-methanol | 54% yield | C(C=C)OC1[C@@H]([C@H]([C@@H]([C@H](O1)CO)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C30H34O6
